US05656642
60 ml of 5N hydrochloric acid was added to a solution of 5.8 g of 4-{N-methyl-N-[2-(4-methylthiophenyl)ethyl]amino}-1-benzoylpiperidine in 20 ml of ethanol. The mixture was refluxed by heating, for 12 hours. To the reaction mixture was added 100 ml of ethanol, followed by concentration under reduced pressure. To the residue was added ice water. The mixture was made basic with a 25% aqueous sodium hydroxide solution and then extracted with chloroform. The extract was water-washed, dried with anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 3.7 g of 4-{N-methyl-N-[2-(4-methylthiophenyl)ethyl]amino}piperidine as a light yellow oily substance.

reactant | hydrochloric acid | 5N, 60 ml | Cl | ClH
reactant | 4-{N-methyl-N-[2-(4-methylthiophenyl)ethyl]amino}-1-benzoylpiperidine | 5.8 g | CN(CCC1=CC=C(C=C1)SC)C1CCN(CC1)C(C1=CC=CC=C1)=O | C22H28N2OS
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-{N-methyl-N-[2-(4-methylthiophenyl)ethyl]amino}piperidine | 3.7 g | CN(CCC1=CC=C(C=C1)SC)C1CCNCC1 | C15H24N2S
